US04751305
A. 1-[2-Pyrazinyl]-4-piperidinone
A mixture of 20 g (0.1746 mol) of chloropyrazine, 36 g (0.260 mol) of K2CO3, 76 g (0.5308 mol) of 1,4-dioxa-8-azaspiro[4.5]decane, and 80 ml of dimethylformamide is stirred at 100° C. for 3 days. The reaction mixture is cooled, siluted with water, and extracted with ethyl acetate. The combined extracts are washed with water, dried over Na2SO4 and concentrated in vacuo. The residue, 400 ml of 10% sulfuric acid solution and 100 ml of tetrahydrofuran is stirred at ambient temperature for 4 days, diluted with water, basified with sodium hydroxide and extracted with methylene chloride. The extracts are washed with brine, dried over Na2SO4, and concentrated in vacuo. Trituration with ether gives 8.4 g of title compound: IR (KBr) 1720 and 1580 cm-1 ; NMR (CDCl3) δ8.24-7.88 (m, 3H), 3.98 (t, 4H), and 2.56 (t, 4H).

reactant | chloropyrazine | 0.1746 mol, 20 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | K2CO3 | 0.260 mol, 36 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 0.5308 mol, 76 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[2-Pyrazinyl]-4-piperidinone | 8.4 g | N1=C(C=NC=C1)N1CCC(CC1)=O | C9H11N3O
